US09403816B2
6-Bromo-4-hydroxy-3-phenylquinolin-2(1H)-one
To a solution of methyl 5-bromo-2-(2-phenylacetamido)benzoate (7.71 g, 22.1 mmol, Intermediate 7: step a) in THF (50 mL) at −78° C. was added 1.0 M lithium bis(trimethylsilyl)amide in hexane (48.7 mL, 48.7 mmol) slowly, and the color changed from colorless to clear red. The mixture, at −78° C., was warmed to room temperature over 4 hours, during which time the color changed to cloudy yellow. The reaction was quenched with water, and acidified with 37% HCl until pH˜5. The precipitated solid was filtered, washed with water and Et2O, and air dried to provide the title compound. Another crop precipitated from the filtrate after standing overnight. The solid was collected by filtration, washing with water and Et2O, and air drying to afford additional title compound.

reactant | methyl 5-bromo-2-(2-phenylacetamido)benzoate | BrC=1C=CC(=C(C(=O)OC)C1)NC(CC1=CC=CC=C1)=O | C16H14BrNO3
reactant | lithium bis(trimethylsilyl)amide | 1.0 M | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | hexane | 48.7 mmol, 48.7 mL | CCCCCC | C6H14
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 6-Bromo-4-hydroxy-3-phenylquinolin-2(1H)-one | BrC=1C=C2C(=C(C(NC2=CC1)=O)C1=CC=CC=C1)O | C15H10BrNO2
